US08227477B2
Nilotinib base form A (0.5 g, 0.94 mmol) was suspended in ethanol absolute (4 ml), then an HCl solution (0.23 mL, 19.48% in IPA) was added and the reaction mixture became yellow. The slurry was stirred at room temperature (20-30° C.) for 16 h. The product was filtered and washed twice with ethanol absolute (1.5 ml). The solid was dried under vacuum oven at 50° C. overnight to yield Nilotinib HCl form T2.

reactant | Nilotinib | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F | C28H22F3N7O
reactant | HCl | 0.23 mL | Cl | ClH
solvent | ethanol absolute | 4 ml | CCO | C2H6O
product | Nilotinib HCl | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F.Cl | InChI=1S/C28H22F3N7O.ClH/c1-17-5-6-19(10-25(17)37-27-33-9-7-24(36-27)20-4-3-8-32-14-20)26(39)35-22-11-21(28(29,30)31)12-23(13-22)38-15-18(2)34-16-38;/h3-16H,1-2H3,(H,35,39)(H,33,36,37);1H
